US07700641B2
B. Synthesis of 3-(1,3-benzodioxol-5-yl)-3-hydroxy-1-Pentyl-1,3-dihydro-2H-indol-2-one
To a solution of 1-pentyl-1H-indole-2,3-dione (2.80 g, 12.8 mmol) in THF (50.0 mL) was added 3,4-(methylenedioxy)phenylmagnesium bromide (14.0 mL, 1 M THF solution, 14.0 mmol) slowly at −78° C. The mixture was stirred at 0° C. for 1 h and quenched with ammonium chloride solution. The mixture was poured into water (150 mL) and extracted with ethyl acetate (200 mL). The organic layer was washed with water, dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to flash column chromatography to afford the title compound (3.10 g, 71%) as an orange oil: 1H NMR (300 MHz, CDCl3) δ 7.34-7.23 (m, 2H), 7.05 (t, 1H), 6.91-6.85 (m, 2H), 6.83-6.78 (m, 1H), 6.71 (d, 1H), 5.92-5.89 (m, 2H), 3.82-3.55 (m, 2H), 3.40 (br, 1H), 1.76-1.61 (m, 2H), 1.39-1.28 (m, 4H), 0.87 (t, 3H).

reactant | 1-pentyl-1H-indole-2,3-dione | 12.8 mmol, 2.80 g | C(CCCC)N1C(C(C2=CC=CC=C12)=O)=O | C13H15NO2
reactant | 3,4-(methylenedioxy)phenylmagnesium bromide | 14.0 mmol, 1 M, 14.0 mL | C1OC2=CC=[C-]C=C2O1.[Mg+2].[Br-]
solvent | THF | 50.0 mL | C1CCOC1 | C4H8O
product | 3-(1,3-benzodioxol-5-yl)-3-hydroxy-1-Pentyl-1,3-dihydro-2H-indol-2-one | 3.10 g, 71% | O1COC2=C1C=CC(=C2)C2(C(N(C1=CC=CC=C21)CCCCC)=O)O | C20H21NO4
